US05091533
To a mixture of E61, o-(1,2-dimethylallyl)-p-methoxyphenyl n-butyrate and p-methoxyphenyl n-butyrate (39.5 gm) in dichloromethane (900 mL) was added in portions metachloroperbenzoic acid (52 gm; 300 mmoles). The mixture was stirred at room temperature overnight. The reaction mixture was cooled in an ice-water bath and calcium hydroxide (150 gm) was added. After stirring for 15 minutes the mixture was filtered through a celite pad and the filtrate concentrated in vacuo. The residue was chromatographed in silica gel using 10% ethyl acetate in hexane to obtain 20 gm (47%) of o-(1,1-dimethyl-2,3-epoxypropyl)-p-methoxyphenyl n-butyrate, E62, as an oil.

reactant | o-(1,2-dimethylallyl)-p-methoxyphenyl n-butyrate | C(CCC)(=O)OC1=C(C=C(C=C1)OC)C(C(=C)C)C | C16H22O3
reactant | p-methoxyphenyl n-butyrate | 39.5 gm | C(CCC)(=O)OC1=CC=C(C=C1)OC | C11H14O3
reactant | metachloroperbenzoic acid | 300 mmoles, 52 gm | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | 150 gm | [OH-].[Ca+2].[OH-]
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | o-(1,1-dimethyl-2,3-epoxypropyl)-p-methoxyphenyl n-butyrate | 20 gm, 47% | C(CCC)(=O)OC1=C(C=C(C=C1)OC)C(C1CO1)(C)C | C16H22O4
